Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMH significant for CAD s/p PCI who presents with 
dyspnea associated with 4 pillow orthopnea and lower extremity 
edema. The patient reports missing 2 doses of lasix this week. 
The patient also complains of productive cough.  

The patient reports he was treated for 'pneumonia' by his PCP in 
late ___. Review of OMR shows no infiltrate on CXR and a 
Z-pack was prescribed. He recovered from that illness, but has 
developed worsening dyspnea and cough over the last two weeks. 
Today, his daughter visited him and was worried about his 
wheezing. She called PCP office and NP recommended going to 
urgent care. At ___ urgent ___, reportedly chest 
x-ray demonstrated bilateral pulmonary edema and patient was 
sent to the ED.  

In the ED initial vitals were: T99.0 HR133 BP137/74 RR18 96%RA. 
Labs were significant for: troponin 0.01, BNP 1406 (no prior 
levels), flu negative. CXR showed mild pulmonary vascular 
congestion with small bilateral pleural effusions. EKG showed 
Afib with RVR. The patient was given metoprolol 5mg IV x 2, 40 
iv lasix, and duonebs. His heart rate remained labile in the ED. 
Vitals prior to transfer were: T98.8 HR110-130 ___ RR20 
97%RA. 
 
On the floor, he continues to have cough. Denies sob, cp.  

Review of Systems:  
(+) per HPI  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, chest pain, abdominal pain, 
nausea, vomiting, diarrhea, constipation, BRBPR, melena, 
hematochezia, dysuria, hematuria.
 
Past Medical History:
- CAD with MI at ___, s/p PCI with DES to pLAD in ___ (cardiac 
cath showed collateralized total occlusion of the RCA and an 80% 
proximal LAD lesion)  
- DM2L HbA1c 6.8% in ___  
- Afib on coumadin  
- Hyperlipidemia  
- Hypertension  
- Bradycardia causing syncope s/p PPM ___ EnPulse)  
- S/p Rt carotid endarterectomoy in ___  
- Psoriasis  
- Kidney stones
 
Social History:
___
Family History:
- Mother had diabetes. MI in her ___.  
- Father had diabetes and emphysema. MI in his ___.  
- Brother has CAD.
 
Physical Exam:
ADMISSION PHYSICAL:
=====================
Vitals - T:98.0 BP:131/65 HR:120 RR:18 02 sat:95%RA wt 132.9kg  
GENERAL: NAD, A&Ox3, pleasant  
HEENT: MMM, good dentition  
NECK: nontender supple neck, JVD to midneck at 45 degrees  
CARDIAC: irregularly irregular, S1/S2, no murmurs, gallops, or 
rubs  
LUNG: Mild expiratory wheezes throughout, good air movement, no 
crackles.  
ABDOMEN: obese, +BS, nontender in all quadrants, no 
rebound/guarding  
EXTREMITIES: 3+ edema to thighs bilaterally, moving all 4 
extremities with purpose  
SKIN: warm and well perfused, erythematous rash to bilateral 
elbows with overlying silvery scale

DISCHARGE PHYSICAL:
======================
Vitals: 97.3, 100-136/52-78, 59-126, 18, 98 on RA
Weight on admission 132.9
DISCHARGE WEIGHT: 125.7
General: well appearing, obese male in NAD
Neck: unable to appreciate JVP
Lungs: CTA b/l, non-labored breathing
CV: ___, normal rate, normal S1/S2, no m/r/g
Abdomen: +BS, soft, obese, NT/ND
Ext: 1+ edema to ankles bilaterally
 
Pertinent Results:
ADMISSION LABS:
====================
___ 09:15PM BLOOD WBC-10.0 RBC-3.99* Hgb-12.5* Hct-37.4* 
MCV-94 MCH-31.4 MCHC-33.4 RDW-15.7* Plt ___
___ 09:15PM BLOOD Neuts-67.8 ___ Monos-9.3 Eos-3.5 
Baso-0.3
___ 08:55AM BLOOD ___ PTT-37.1* ___
___ 09:15PM BLOOD Glucose-129* UreaN-19 Creat-1.2 Na-145 
K-3.6 Cl-102 HCO3-29 AnGap-18
___ 09:15PM BLOOD proBNP-1406*
___ 09:15PM BLOOD cTropnT-0.01
___ 08:55AM BLOOD Calcium-9.1 Phos-3.4 Mg-1.7
___ 08:55AM BLOOD TSH-2.6
___ 09:51PM BLOOD Lactate-2.0

DISCHARGE LABS:
===================
___ 05:28AM BLOOD WBC-9.0 RBC-4.24* Hgb-13.2* Hct-39.6* 
MCV-93 MCH-31.1 MCHC-33.4 RDW-15.2 Plt ___
___ 05:28AM BLOOD ___
___ 05:28AM BLOOD Glucose-148* UreaN-35* Creat-1.5* Na-140 
K-3.8 Cl-96 HCO3-31 AnGap-17
___ 05:28AM BLOOD Calcium-9.2 Phos-4.0 Mg-2.2
___ 06:35AM BLOOD proBNP-569

STUDIES:
===================

CXR (___):
FINDINGS:
Left-sided dual-chamber pacemaker device is noted with leads 
terminating in the right atrium and right ventricle.  Cardiac 
silhouette size remains top normal. Mediastinal and hilar 
contours are unchanged. The aorta is diffusely calcified.  There 
is mild upper zone vascular redistribution with pulmonary 
vascular indistinctness suggestive of mild pulmonary vascular 
congestion. Small bilateral pleural effusions are demonstrated. 
Patchy opacities in the lung bases may reflect atelectasis 
though infection is difficult to exclude. No pneumothorax is 
present. No acute osseous abnormality is visualized. 

IMPRESSION:
Patchy bibasilar airspace opacities, possibly atelectasis though 
infection is not completely excluded.  Mild pulmonary vascular 
congestion with small bilateral pleural effusions 

ECHOCARDIOGRAM (___):

The left atrium is moderately dilated. The right atrium is 
dilated. The estimated right atrial pressure is ___ mmHg. There 
is moderate symmetric left ventricular hypertrophy. The left 
ventricular cavity size is normal. Regional left ventricular 
wall motion is normal. Overall left ventricular systolic 
function is normal (LVEF>55%). Right ventricular chamber size 
and free wall motion are normal. The aortic valve leaflets (3) 
are mildly thickened. There is no aortic valve stenosis. No 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Trivial mitral regurgitation is seen. The 
estimated pulmonary artery systolic pressure is normal. There is 
a trivial/physiologic pericardial effusion. 

IMPRESSION: Symmetric LVH with normal global and regional 
biventricular systolic function. Normal estimated intracardiac 
filling pressures.

Compared with the prior study (images reviewed) of ___, 
the findings are similar.
 
Brief Hospital Course:
___ with PMH significant for HFpEF and CAD with 3-vessel 
disease s/p DES to m-pLAD in ___ who presents with dyspnea and 
worsening ___ edema. He was diuresed with a lasix gtt ___ 
mg/hr) and boluses PRN. He had an ECHO here which showed EF > 
55%, similar to last ECHO in ___. Prior to discharge, he was 
transitioned to torsemide 40 mg daily.

DRY WEIGHT: 125.7 kg

#Acute on chronic decompensated diastolic CHF: Admission weight 
132.9 kg, dry weight 125.7 BNP 1400 on admission down to 569 
prior to discharge. Missing 2 lasix doses prior to admission may 
have been trigger.
- Discharge with: Torsemide 40 mg PO daily 
- metoprolol succinate 300 mg daily
- TTE showed preserved EF (>55%)

#Afib w/ RVR: ___ be due to acute CHF exacerbation plus missing 
___ home metoprolol dose. S/p 5 mg IV metop x 2 in the ED and 
additional 25mg po metop once on the floor.
- Metoprolol succinate as above
- Continued warfarin (minor dose adjustment)

#CAD: MI at ___, s/p PCI with DES to pLAD in ___ (cardiac cath 
showed collateralized total occlusion of the RCA and an 80% 
proximal LAD lesion). Currently no CP. EKG unchanged from prior. 
Trop neg x 1.
- Continue atorva 80, ASA 81, metop as above

#DM2: HbA1c 6.8% in ___. 
- Held metformin, will restart on discharge
- SSI while in house

#HTN: Home lisin/HCTZ discontinued for ___ in ___. Given 
preserved EF, it is not necessary that he be on an ACE for heart 
failure.
- Continued metop as above

#Psoriasis:
- Continued betamethasone cream

TRANSITIONAL ISSUES:
[ ] Patient will need f/u labs within 1 week - Rx for ___ - 
to monitor Cr (slightly elevated prior to d/c)
[ ] Patient needs close cardiology follow up for further 
titrating of home diuretics
[ ] INR on ___, followed by ___ ACMS
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 50 mg PO BID 
2. MetFORMIN (Glucophage) 1000 mg PO BID 
3. Warfarin ___ mg PO DAILY16 
4. Furosemide 40 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
7. Aspirin 81 mg PO DAILY 
8. Atorvastatin 80 mg PO QPM 
9. Betamethasone Dipro 0.05% Cream 1 Appl TP BID 
10. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 

 
Discharge Medications:
1. Outpatient Lab Work
Please check CHEM-7 (ICD-9 428.30)
and INR (ICD-9 427.31)
Fax to ___, MD at ___
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Betamethasone Dipro 0.05% Cream 1 Appl TP BID 
5. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
6. Warfarin 10 mg PO 4X/WEEK (___) 
RX *warfarin 5 mg 2 tablet(s) by mouth every ___, 
___ Disp #*80 Tablet Refills:*0
7. Warfarin 7.5 mg PO 3X/WEEK (___) 
RX *warfarin 2.5 mg 3 tablet(s) by mouth every ___, 
___ Disp #*30 Tablet Refills:*0
8. Metoprolol Succinate XL 300 mg PO DAILY 
RX *metoprolol succinate 100 mg 3 tablet(s) by mouth daily Disp 
#*90 Tablet Refills:*0
9. Torsemide 40 mg PO DAILY 
RX *torsemide 20 mg 2 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0
10. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
11. MetFORMIN (Glucophage) 1000 mg PO BID 
12. Multivitamins 1 TAB PO DAILY 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acute on chronic diastolic heart failure exacerbation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for leg swelling and shortness 
of breath. We found out that you had a heart failure 
exacerbation. To treat this, we gave you a medicine (Lasix) to 
make you pee and closely monitored your fluid status and your 
labs. Your swelling and breathing improved and your labs showed 
that your heart was recovering. We did an echocardiogram 
(ultrasound of the heart) which showed that there had not been 
any changes since your previous one.

We changed some of your heart failure medications. You should 
review your medication list carefully. You should weigh yourself 
every day and call your doctor if your weight goes up by more 
than 3 lbs. You also need to have labs checked within 1 week 
(ideally on ___. On ___, you should call your 
primary care doctor or cardiologist to schedule an appointment 
within a week. Their numbers are below.

It was a pleasure taking care of you.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___